Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
hematuria

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old man with ___ CAD s/p repeat
DES to LAD ___ in-stent restenosis ___ on DAPT, DMII, CVA, 
SSS
s/p PPM ___, HTN, HLD, hypothyroidism, seizure, BPH who
presented to ___ with hematuria on ___.

Per discharge summary at ___, patient had Hgb drop from 11.8 to
10.3 but remained hemodynamically stable. CT A/P showed 1.5 x 
2.5
cm mass in left lateral urinary bladder, showing partial
obstruction of left ureter causing mild to moderate
hydronephrosis of left kidney. Right kidney also had mild
hydronephrosis. CBI was started and needed frequent manual
bladder irrigation for clots. Transferred to ___ due to need
for TURBT in setting of recent stent placement and risk of
bleeding as well as evaluation for palliative radiation.

ASA and Plavix were originally stopped on admission but 
restarted
by cardiology recommendations during his admission.

He reports that he is feeling okay. He noted leaking around his
foley catheter on transfer. Nurse flushed it and maybe saw one
small clot but the urine is flowing out clear and yellow. He
denies suprapubic tenderness. He denies dysuria. He denies
fevers/chills. He has some pressure in his left chest sometimes
but feels very anxious during these times and has a history of
anxiety so he thinks the pressure feeling is from that.

Has been having some cramping in his legs and soreness in his
back which he thinks is from lying in bed all day.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
AV block, 2nd degree s/p DDD pacemaker placement, left bundle
branch block
CAD s/p DES to LAD, repeat DES to LAD ___ in-stent restenosis
___ at ___
Hypothyroidism
Orthostatic hypotension
HTN
Hyperlipidemia
BPH
Depression
Anxiety
 
Social History:
___
Family History:
cancer and heart disease. 

 
Physical Exam:
ADMISSION EXAM: 
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation. Foley in
place draining dark yellow urine.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 09:00PM BLOOD WBC-9.0 RBC-3.24* Hgb-10.0* Hct-30.9* 
MCV-95 MCH-30.9 MCHC-32.4 RDW-11.9 RDWSD-41.7 Plt ___
___ 06:40AM BLOOD WBC-8.0 RBC-3.22* Hgb-9.9* Hct-31.4* 
MCV-98 MCH-30.7 MCHC-31.5* RDW-12.3 RDWSD-43.8 Plt ___
___ 09:00PM BLOOD Glucose-119* UreaN-22* Creat-1.2 Na-140 
K-4.4 Cl-102 HCO3-28 AnGap-10
___ 06:40AM BLOOD Creat-1.3* Na-144 K-4.7 HCO3-27 AnGap-12
___ 09:00PM BLOOD ALT-31 AST-24 LD(LDH)-170 AlkPhos-74 
TotBili-0.3
___ 09:00PM BLOOD Albumin-3.5 Calcium-8.9 Phos-3.3 Mg-1.8
___ 01:24PM BLOOD K-4.1
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD WBC-8.0 RBC-3.22* Hgb-9.9* Hct-31.4* 
MCV-98 MCH-30.7 MCHC-31.5* RDW-12.3 RDWSD-43.8 Plt ___
___ 07:53AM BLOOD Creat-1.3* Na-139 K-4.4 HCO3-28 AnGap-10
___ 09:00PM BLOOD ALT-31 AST-24 LD(LDH)-170 AlkPhos-74 
TotBili-0.3
___ 07:53AM BLOOD Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with ___
CAD s/p repeat DES to LAD ___ in-stent restenosis ___ on 
DAPT,
DMII, CVA, SSS s/p PPM ___, HTN, HLD, hypothyroidism, seizure,
BPH who presented to ___ with hematuria on ___.

ACUTE/ACTIVE PROBLEMS:
#Hematuria
#New bladder mass: On dual anti platelet therapy (DAPT) for 
stent and
presented to ___ with hematuria and found to have bladder mass 
on
imaging which needs biopsy/resection. S/p CBI without any 
further
bleeding on the time of transfer.  Here, he was seen by both 
Urology and Cardiology.  Cardiology stated that ideally, he 
should be on DAPT for 12 months, but given the fact that surgery 
would be absolutely prohibitive, they stated that he could be 
paused with Plavix for 5 days prior to surgery, suggesting that 
this be done inside the hospital, and then have it restarted 
immediately post-op.  This would occurrr in about 6 weeks.  He 
would never stop his aspirin.  Since there was no immediate need 
for procedure, he had no interventions at this time.  Urine was 
ordered for cytology, but results were not back at time of 
discharge.  He also had resolved hematuria, so foley cath was 
successfully removed without complication. He was discharged 
home on alpha blocker (Doxazosin) as well as Flomax and will 
follow-up with Urology as an outpatient for surgical planning.  

#CAD s/p new stent ___: Not currently having active chest
pain, likely pressure symptoms over the past few days are 
anxiety
related as he has had trops neg x 3. He continued on aspirin, 
Plavix, isosorbide mononitrate, metoprolol and his home 
Simvastatin.

#Hypothyroidism: continue levothyroxine

#DMII: hold metformin, but restarted upon discharge.  

#Depression/Anxiety: continue sertraline, lamictal, clonazepam

I spent > 30 min in discharge planning and coordination of care. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Doxazosin 4 mg PO HS 
5. Levothyroxine Sodium 112 mcg PO DAILY 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
7. amLODIPine 10 mg PO DAILY 
8. ClonazePAM 0.5 mg PO QID:PRN anxiety 
9. Aspirin 81 mg PO DAILY 
10. Vitamin D 5000 UNIT PO DAILY 
11. Docusate Sodium 100 mg PO BID 
12. LamoTRIgine 150 mg PO BID 
13. Sertraline 25 mg PO DAILY 
14. Clopidogrel 75 mg PO DAILY 
15. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
16. Tamsulosin 0.4 mg PO QHS 
17. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Moderate  
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  ClonazePAM 0.5 mg PO QID:PRN anxiety  
5.  Clopidogrel 75 mg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  Doxazosin 4 mg PO HS 
RX *doxazosin 4 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
8.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
9.  LamoTRIgine 150 mg PO BID  
10.  Levothyroxine Sodium 112 mcg PO DAILY  
11.  Lisinopril 10 mg PO DAILY  
12.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
13.  Metoprolol Succinate XL 50 mg PO DAILY  
14.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
15.  Sertraline 25 mg PO DAILY  
16.  Simvastatin 20 mg PO QPM  
17.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth nightly Disp #*60 
Capsule Refills:*0 
18.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematuria
Bladder mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with a mass in your bladder.  
You were seen by cardiology and urology who together decided 
that you should be on Plavix and Aspirin for at least 3 months 
after your last stent.  Then, we will coordinate surgery where 
you may need to come in to the hospital when Plavix is held for 
a few days prior to surgery.  Your bleeding from the foley 
stopped, and it was able to be removed.  If in the future you 
have any difficulty with being able to urinate or have any pain 
with blood clots in your urine, you should seek urgent medical 
attention at the nearest hospital. 

We wish you the best in your recovery, 
Your ___ Team 
 
Followup Instructions:
___